US05412117
To a mixture of 3.2 g of 6-nitro-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-one, 1.2 g of methyl isothiocyanate, and 40 ml of dried N,N-dimethylformamide was added 1.9 g of potassium t-butoxide while stirring under cooling with ice. The mixture was stirred for 3 hours under ice-cooling and then allowed to stand for 12 hours. Ice-water was added thereto, and the mixture was made acidic with hydrochloric acid and then extracted with methylene chloride. The organic layer was re-extracted with 2N NaOH. The aqueous layer was made acidic with hydrochloric acid and re-extracted with methylene chloride. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (developing solution: n-hexane:ethyl acetate =10:1) and recrystallized from a mixed solvent of methylene chloride and n-hexane to obtain 2.33 g of N-methyl-6-nitro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide.

reactant | 6-nitro-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-one | 3.2 g | [N+](=O)([O-])C=1C=CC2=C(CC(C(O2)(C)C)=O)C1 | C11H11NO4
reactant | methyl isothiocyanate | 1.2 g | CN=C=S | C2H3NS
reactant | potassium t-butoxide | 1.9 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-methyl-6-nitro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide | 2.33 g | CNC(=S)C1=C(C(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)C)O | C13H14N2O4S
